US09428452B2
N-(2,4-dimethylphenyl)-3,5-difluoro-4-(1-hydroxy-2-morpholinoethyl)-N-isobutylbenzenesulfonamide
To a solution of N-(2,4-dimethylphenyl)-3,5-difluoro-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide (150 mg, 0.379 mmol) in ethanol (1.5 mL) at 25° C. was added morpholine (0.033 ml, 0.379 mmol) and the reaction mixture stirred at 50° C. for 6 hours. The mixture was concentrated in vacuo and purified by mass directed autoprep (ammonium carbonate modifier). The appropriate fractions were combined and evaporated in vacuo to give the required product, 9 mg, as a colourless oil. LCMS [LCMS2] Rt 1.33 min, m/z (ES+) 483 (M+H).

reactant | N-(2,4-dimethylphenyl)-3,5-difluoro-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide | 0.379 mmol, 150 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=C(C(=C1)F)C1OC1)F)CC(C)C | C20H23F2NO3S
reactant | morpholine | 0.379 mmol, 0.033 ml | N1CCOCC1 | C4H9NO
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | N-(2,4-dimethylphenyl)-3,5-difluoro-4-(1-hydroxy-2-morpholinoethyl)-N-isobutylbenzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=C(C(=C1)F)C(CN1CCOCC1)O)F)CC(C)C | C24H32F2N2O4S
